US07141578B2
C. N-(4-Cyano-2-methyl-3-trifluoromethylphenyl)-2,2-dimethylpropionamide (841C)
A suspension of N-(4-chloro-2-methyl-3-trifluoromethylphenyl)-2,2-dimethylpropionamide (8.36 g, 28.5 mmol) and CuCN (4.33 g, 65.5 mmol) in anhydrous N-methylpyrrolidinone (85 mL) was refluxed for 38 h. After cooling to rt, the suspension was poured into ice water with stirring. The resulting solid was filtered, washed with water and dried to yield an 85:15 mixture (7.55 g) of compound 841C and 841D. The resulting mixture was used in the next step.

reactant | N-(4-chloro-2-methyl-3-trifluoromethylphenyl)-2,2-dimethylpropionamide | 28.5 mmol, 8.36 g | ClC1=C(C(=C(C=C1)NC(C(C)(C)C)=O)C)C(F)(F)F | C13H15ClF3NO
reactant | CuCN | 65.5 mmol, 4.33 g | C(#N)[Cu]
solvent | N-methylpyrrolidinone | 85 mL | CN1C(CCC1)=O | C5H9NO
product | N-(4-Cyano-2-methyl-3-trifluoromethylphenyl)-2,2-dimethylpropionamide | 7.55 g | C(#N)C1=C(C(=C(C=C1)NC(C(C)(C)C)=O)C)C(F)(F)F | C14H15F3N2O
